US09284308B2
3-(4-(1H-Imidazol-1-yl)benzyl)-2,4-dichloro-6-iodoquinoline
A mixture containing 3-(4-(1H-imidazol-1-yl)benzyl)-6-iodoquinoline-2,4-diol (3.0 g, 6.8 mmol, Intermediate 17: step a) and phosphorus oxychloride (1.9 mL, 20 mmol) in acetonitrile (34 mL) was heated to 100° C. After 16 hours, the flask was allowed to cool to 23° C. Dichloromethane (200 mL) and saturated aqueous sodium bicarbonate solution were added in sequence and the resulting biphasic mixture was stirred for 30 minutes. The biphasic mixture was filtered through Celite® and the layers of the biphasic filtrate were separated. The organic layer was dried with magnesium sulfate and the dried solution was filtered. Silica gel (7 g) was added to the filtrate and the solvent was removed by rotary evaporation to afford a free-flowing powder. The powder was loaded onto a column of silica gel for purification. Elution with dichloromethane initially, grading to 5% methanol-dichloromethane provided the title compound as a solid.

reactant | 3-(4-(1H-imidazol-1-yl)benzyl)-6-iodoquinoline-2,4-diol | N1(C=NC=C1)C1=CC=C(CC=2C(=NC3=CC=C(C=C3C2O)I)O)C=C1 | C19H14IN3O2
reactant | phosphorus oxychloride | 20 mmol, 1.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 34 mL | C(C)#N | C2H3N
product | 3-(4-(1H-Imidazol-1-yl)benzyl)-2,4-dichloro-6-iodoquinoline | N1(C=NC=C1)C1=CC=C(CC=2C(=NC3=CC=C(C=C3C2Cl)I)Cl)C=C1 | C19H12Cl2IN3
